* source HEART_RATE_AMPLIFIER
X_U1A         N00719 N00812 N00528 N03657 N00920 LM358
R_R5         N00920 N00812  1M  
V_V2         N00689 N03657 DC 0Vdc AC 1uVac 1
X_U2A         N00995 N01103 N00528 N03657 N01159 LM358
R_R6         N00750 N00812  1k  
R_R7         N00750 N00995  1k  
D_D1         N00750 N000711 D1N4148 
R_R8         N01103 N00750  1k  
D_D2         N000711 N03657 D1N4148 
X_R10    N00750 N00920 N01802 SCHEMATIC1_R10 
R_R9         N01159 N01103  1k  
C_C2         N00812 N00920  1n  
C_C3         N01802 N00995  2.2uF  
C_C1         N00689 N00719  2.2uF  
V_V1         N00528 N03657 6Vdc
C_C4         N01103 N01159  1n  
R_R2         N00689 N00528  22k  
R_R3         N00528 N00750  4.7k  
R_R4         N00750 N00719  47K  

.subckt SCHEMATIC1_R10 1 2 t  
RT_R10         1 t {(1K*(1-0.5))+.001}
RB_R10         t 2 {(1K*0.5)+.001}
.ends SCHEMATIC1_R10
